US08669266B2
(iii) 4-((S)-2-Benzyloxycarbonylamino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 15 g of (S)-2-Benzyloxycarbonylamino-pentanedioic acid 5-tert-butyl ester, 20.4 g of NEM and 14.5 g of TOTU in 75 ml of DMF, 7.4 g of Piperazine-1-carboxylic acid ethyl ester was added at RT and stirred for 16 h. The reaction mixture was then diluted with saturated aqueous sodium hydrogen carbonate solution and then extracted with 300 ml of ethyl acetate. The organic phase was washed with diluted saturated aqueous sodium hydrogen carbonate solution and dried over MgSO4. The solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with n-heptane/ethyl acetate (1/1). The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 20.6 g.

reactant | (S)-2-Benzyloxycarbonylamino-pentanedioic acid 5-tert-butyl ester | 15 g | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1)=O | C17H23NO6
reactant | TOTU | 14.5 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | Piperazine-1-carboxylic acid ethyl ester | 7.4 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-((S)-2-Benzyloxycarbonylamino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C24H35N3O7
